US07569586B2
(a) 1-Cyclohexyl-2-isocyanatobenzene
To a stirred solution of 2-cyclohexylbenzoic acid (2 g, 9.8 mmol) and DIPEA (3.45 μL, 14.7 mmol) in toluene (25 mL) under nitrogen was added diphenylphosphoroyl azide (2.1 mL, 9.8 mmol). The reaction mixture was stirred for 4 h at room temperature and then heated at 90° C. for 3 h. Upon cooling, the organic layer was washed with saturated ammonium chloride solution (2×10 mL) and brine (1×10 mL), dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound as a clear amber oil.

reactant | 2-cyclohexylbenzoic acid | 9.8 mmol, 2 g | C1(CCCCC1)C1=C(C(=O)O)C=CC=C1 | C13H16O2
reactant | DIPEA | 14.7 mmol, 3.45 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenylphosphoroyl azide | 9.8 mmol, 2.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Cyclohexyl-2-isocyanatobenzene | C1(CCCCC1)C1=C(C=CC=C1)N=C=O | C13H15NO
